data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_340748_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([C:6](/[C:5](=[N:9]/[H:11])[H:12])([H:19])[H:20])=[O:7])[O:8][H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4](=[C:6]([H:19])[H:20])[O:7]/[C:5](=[N:9]/[H:11])[H:12])[O:8][H:10],69.19881749999774
MR_666269_1,[C:1]1([C:4]([H:13])([H:14])[H:15])([N:8]=[O:9])[C:2]([C:5]([H:16])([H:17])[H:18])([N:7]([H:11])[H:12])[C:3]1([C:6]([H:19])([H:20])[H:21])[H:10]>>[C:1](=[C:2](/[C:5]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])(\[C:3]([C:6]([H:19])([H:20])[H:21])([N:8]=[O:9])[H:10])[C:4]([H:13])([H:14])[H:15],32.80067999997456
MR_200624_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([C:5](=[C:6]([H:16])[H:17])[H:12])=[N:7]/[H:11])([N:4]([H:9])[H:10])[H:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3](=[N:7]\[H:11])[H:8])([N:4]([H:9])[H:10])[C:5](=[C:6]([H:16])[H:17])[H:12],52.26761250001317
MR_97996_0,[C@:1]([C:2]([H:15])([H:16])[H:17])(/[C:3]([N:4]([H:10])[H:11])=[C:6](/[N:5]([H:12])[H:13])[H:14])([O:7][H:8])[H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:3](/[N:4]([H:10])[H:11])[C@@:6]([N:5]([H:12])[H:13])([O:7][H:8])[H:14])[H:9],50.31985250000844
MR_687861_0,[C@@:1]([C:2](/[C:7](=[C:8](\[C:4]([H:20])([H:21])[H:22])[H:16])[H:15])([H:13])[H:14])([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[C:6](=[O:9])[H:12]>>[C@:1]1([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[C:2]([H:13])([H:14])[C@@:7]1([C@:8]([C:4]([H:20])([H:21])[H:22])([C:6](=[O:9])[H:12])[H:16])[H:15],68.56880750001892
MR_240208_0,[C:1](/[C:4]([N:8]([H:16])[H:17])=[C:9](/[C:3](=[C:2]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[N:7]([H:14])[H:15])[H:18])([H:19])([H:20])[H:21]>>[C:1]([C:4]1([N:8]([H:16])[H:17])[C:2]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[C:3]([N:7]([H:14])[H:15])=[C:9]1[H:18])([H:19])([H:20])[H:21],49.36479749999421
MR_220248_2,[C:1]([C:2]([C:4](=[O:7])[H:10])=[O:6])([N:3]([H:8])[H:9])=[O:5]>>[C:1]([N:3]([H:8])[H:9])([C:4]1([H:10])[C:2](=[O:6])[O:7]1)=[O:5],41.88060499998528
MR_247986_0,[C@@:1]([O:3][O:5][H:7])([O:4][C:2]([H:10])([H:11])[H:12])([O:6][H:8])[H:9]>>[C:1]([O:3][O:4][C:2]([H:10])([H:11])[H:12])([O:5][H:7])([O:6][H:8])[H:9],56.43358500001753
MR_397254_1,[C:1]([N:2]([H:7])[H:8])(/[N:5]=[C:4](\[N:3]([H:10])[H:11])[H:12])=[N:6]/[H:9]>>[C:1]([N:5][C:4]([N:2]([H:7])[H:8])([N:3]([H:10])[H:11])[H:12])[N:6][H:9],46.135682500014354
MR_65417_0,[C:1]([N:2]([N:4]([H:10])[H:11])[O:6][H:8])([N:3]([N:5]([H:12])[H:13])[O:7][H:9])([H:14])[H:15]>>[C:1]([N:2]([N:3]([N:5]([H:12])[H:13])[O:7][H:9])[N:4]([H:10])[H:11])([O:6][H:8])([H:14])[H:15],64.25662749995567
MR_176449_1,[C:1]([C:4]([H:18])([H:19])[H:20])([N:7]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])(/[C:8]([C:5]([H:21])([H:22])[H:23])=[C:9](/[C:6]([H:24])([H:25])[H:26])[H:11])[H:10]>>[C:1](\[C:4]([H:18])([H:19])[H:20])(=[C:8](\[C:5]([H:21])([H:22])[H:23])[C:9]([C:6]([H:24])([H:25])[H:26])([N:7]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])[H:11])[H:10],65.53421750001164
MR_445058_1,[N:1]([N:2]([C:4](=[O:7])[H:11])[H:9])([C:3](=[O:6])[H:10])[O:5][H:8]>>[N:1]1([O:5][H:8])[N:2]([H:9])[C@:4]1([O:7][C:3](=[O:6])[H:10])[H:11],69.31678749998525
MR_427850_1,[N:1](/[C:2]([N:5]([H:12])[H:13])=[N:8]/[H:14])([C:3](=[C:6]([H:15])[H:16])[O:7][H:9])[N:4]([H:10])[H:11]>>[N:1](=[C:2](/[N:5]([H:12])[H:13])[N:8]([C:3](=[C:6]([H:15])[H:16])[O:7][H:9])[H:14])\[N:4]([H:10])[H:11],51.59681499999465
MR_266074_0,[C@:1]([C@@:2]([C:6]([H:22])([H:23])[H:24])([O:9][C:4]([H:16])([H:17])[H:18])[H:10])([C:5]([H:19])([H:20])[H:21])([N:7]([H:11])[H:12])[O:8][C:3]([H:13])([H:14])[H:15]>>[C@@:1]([C@:2]([C:6]([H:22])([H:23])[H:24])([O:8][C:3]([H:13])([H:14])[H:15])[H:10])([C:5]([H:19])([H:20])[H:21])([N:7]([H:11])[H:12])[O:9][C:4]([H:16])([H:17])[H:18],67.35961500000428
MR_471951_0,[C:1]1(/[C:5](=[N:7]/[C:3]([H:12])([H:13])[H:14])[H:11])([H:8])[C:2]([H:9])([H:10])[C:4]1=[C:6]([H:15])[H:16]>>[C:1]1([H:8])=[C:5]([H:11])[N:7]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:6]([H:15])[H:16])[C:2]1([H:9])[H:10],51.1004624999994
MR_554413_1,[C:1]([C:4]([C:3]([N:2]([N:5]([H:10])[H:11])[H:9])=[O:7])=[O:8])([N:6]([H:12])[H:13])([H:14])[H:15]>>[C:1]([C:3]([C:4]([N:2]([N:5]([H:10])[H:11])[H:9])=[O:8])=[O:7])([N:6]([H:12])[H:13])([H:14])[H:15],66.86012500001695
MR_497117_0,[N:1]([C:2]([O:3][H:7])=[O:6])(/[N:4]=[N:5]\[H:9])[H:8]>>[N:1](=[N:4]/[N:5]([C:2]([O:3][H:7])=[O:6])[H:9])\[H:8],37.48998750004873
MR_573487_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:7]([C:4]([H:18])([H:19])[H:20])=[C:8]([C:5]([H:22])([H:23])[H:24])[C:6]([H:21])([H:25])[H:26])[C:9](=[O:10])[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])=[C:7]([C:4]([H:18])([H:19])[H:20])[C:8]([C:5]([H:22])([H:23])[H:24])([C:6]([H:21])([H:25])[H:26])[C:9](=[O:10])[H:11],49.19098000000503
